US07820822B2
E: 1-[2-(1-Methyl-1-hydroxyethyl)-3-fluorophenyl]isoquinoline
45.27 g (0.161 mol) of 1-[3-fluoro-2-(carboxymethyl)phenyl]isoquinoline were dissolved in 950 ml of THF and admixed dropwise at −78° C. with 185.12 ml (0.370 mol, 2.3 eq.) of methyllithium (2 M in diethyl ether). After the addition, the mixture was stirred at from −78° C. to −20° C. for 18 h. The reaction mixture was subsequently quenched with MeOH with ice cooling and admixed with 500 ml of dichloromethane. The mixture was subsequently washed three times with 100 ml of NaHCO3 solution and water, dried over MgSO4 and concentrated under reduced pressure. The resulting solid was crystallized from 600 ml of heptane. 29.72 g of a white solid were obtained, corresponding to 65.8% of theory, with a purity of 97.5%.

reactant | 1-[3-fluoro-2-(carboxymethyl)phenyl]isoquinoline | 0.161 mol, 45.27 g | FC=1C(=C(C=CC1)C1=NC=CC2=CC=CC=C12)CC(=O)O | C17H12FNO2
reactant | methyllithium | 0.370 mol, 2 M, 185.12 ml, 2.3 eq. | C[Li]
reactant | THF | 950 ml | C1CCOC1 | C4H8O
product | 1-[2-(1-Methyl-1-hydroxyethyl)-3-fluorophenyl]isoquinoline | 29.72 g | CC(C)(O)C1=C(C=CC=C1F)C1=NC=CC2=CC=CC=C12 | C18H16FNO
